US07612067B2
B. 3-[2-(3,6-Dihydro-2H-pyran-4-yl)-4-methyl-thiazol-5-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine.
150 mg of 4-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-tetrahydro-pyran-4-ol (0.36 mmol) is dissolved in 5 ml of CH2Cl2 and 112 mg of triethylsilane (0.96 mmol) and 717 mg of trifluoroacetic acid (6.3 mmol) are added. The reaction mixture is stirred at room temperature for 1 h. The reaction mixture is stirred under reflux for 1 h and cooled down to room temperature. The solvent is removed in vacuo. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt:2 M NH3 in MeOH=10:3:1) to give 64 mg of the title compound. Yield 45%. mass spectrum (m/e): 397 (M+1). 6.94 (s, 1H), 6.71 (s, 1H), 4.41 (d, J=2.6 Hz, 2H), 3.98 (t, J=5.3 Hz, 2H), 3.43 (m, 1H), 2.62 (s, 3H), 2.75 (m, 2H), 2.56 (s, 3H), 2.37 (s, 3H), 1.86 (m, 4H), 0.92 (t, J=8.2 Hz, 6H).

reactant | 4-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-tetrahydro-pyran-4-ol | 0.36 mmol, 150 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)C2(CCOCC2)O)C | C22H30N4O2S
reactant | triethylsilane | 0.96 mmol, 112 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 6.3 mmol, 717 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-[2-(3,6-Dihydro-2H-pyran-4-yl)-4-methyl-thiazol-5-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 64 mg, Yield 45% | O1CCC(=CC1)C=1SC(=C(N1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C22H28N4OS
